US05240921
2,4-Di-[(thiomorpholin-1-yl)-carbonyl]-pyridine
5 g (0.03 mol) of pyridine-2,4-dicarboxylic acid are suspended in 100 ml of toluene. 4.4 ml (0.06 mol) of thionyl chloride +1 ml of dimethylformamide are added dropwise at room temperature. The mixture is boiled under reflux for 2 hours until the resulting evolution of gas has ended and the solution has become clear. It is cooled to 0° C. and a solution of 60 ml (0.06 mol) of thiomorpholine and 10.4 ml (0.075 mol) of triethylamine in 20 ml of toluene is added dropwise.

reactant | pyridine-2,4-dicarboxylic acid | 0.03 mol, 5 g | N1=C(C=C(C=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | thionyl chloride | 0.06 mol, 4.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | thiomorpholine | 0.06 mol, 60 ml | N1CCSCC1 | C4H9NS
reactant | triethylamine | 0.075 mol, 10.4 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2,4-Di-[(thiomorpholin-1-yl)-carbonyl]-pyridine | N1CCS(CC1)C(=O)C1=NC=CC(=C1)C(=O)S1CCNCC1 | C15H23N3O2S2
